T1 (net85 net79 net79 0) nfet L=2.51E-6 W=2.57E-6
R2 (net41 net3) R=9.8E5
T3 (net73 net45 net45 0) pfet L=5.34E-6 W=1.22E-6
R4 (net84 vdd!) R=1.0E2
R5 (net130 0) R=4.9E0
T6 (net148 net124 net124 0) pfet L=6.09E-6 W=0.40E-6
T7 (net107 net64 net64 0) pfet L=5.93E-6 W=1.93E-6
R8 (net88 net83) R=4.6E5
T9 (net117 net19 net19 0) pfet L=7.86E-6 W=9.86E-6
T10 (net42 net49 net49 0) nfet L=2.95E-6 W=9.65E-6
T11 (net38 net74 net74 0) pfet L=3.50E-6 W=0.77E-6
T12 (net146 net5 net5 0) nfet L=7.84E-6 W=5.38E-6
R13 (net114 net23) R=5.3E4
T14 (0 net43 net43 0) pfet L=3.99E-6 W=4.69E-6
T15 (net97 net118 net118 0) nfet L=7.27E-6 W=6.87E-6
C16 (net20 net23) C=6.1E-5
R17 (net50 net37) R=5.4E2
R18 (vdd! net79) R=0.8E3
T19 (net83 0 0 0) pfet L=1.88E-6 W=5.21E-6
C20 (net107 net95) C=7.9E-13
C21 (net124 net132) C=2.9E-6
T22 (net13 net13 net13 0) nfet L=7.07E-6 W=9.06E-6
T23 (net96 net12 net12 0) nfet L=5.39E-6 W=1.11E-6
T24 (net96 net67 net67 0) nfet L=1.69E-6 W=4.67E-6
T25 (net72 net11 net11 0) pfet L=1.83E-6 W=3.93E-6
T26 (net100 net111 net111 0) pfet L=6.33E-6 W=8.11E-6
C27 (net58 vdd!) C=6.2E-10
T28 (net117 net69 net69 0) nfet L=7.76E-6 W=1.06E-6
T29 (net82 net47 net47 0) nfet L=0.83E-6 W=4.55E-6
R30 (net128 net110) R=4.5E0
T31 (0 vdd! vdd! 0) pfet L=4.87E-6 W=1.72E-6
T32 (net37 net69 net69 0) pfet L=6.17E-6 W=4.75E-6
T33 (net75 net76 net76 0) nfet L=9.00E-6 W=8.52E-6
T34 (net58 net32 net32 0) pfet L=2.57E-6 W=6.16E-6
T35 (net114 net25 net25 0) nfet L=2.63E-6 W=2.91E-6
R36 (net153 net101) R=1.9E2
T37 (0 net5 net5 0) pfet L=7.54E-6 W=7.43E-6
C38 (net119 net72) C=4.5E-11
T39 (net59 net129 net129 0) pfet L=1.36E-6 W=1.62E-6
R40 (net74 net15) R=8.5E0
T41 (net88 0 0 0) nfet L=0.40E-6 W=3.94E-6
R42 (net25 net130) R=0.3E1
T43 (net119 0 0 0) nfet L=6.55E-6 W=9.14E-6
C44 (net59 0) C=0.2E-6
C45 (net13 net55) C=0.9E-9
R46 (net49 net143) R=8.8E2
C47 (net57 net41) C=7.4E-7
T48 (net107 0 0 0) nfet L=4.85E-6 W=9.74E-6
T49 (net148 net30 net30 0) pfet L=0.87E-6 W=9.00E-6
T50 (net121 net65 net65 0) nfet L=5.55E-6 W=5.72E-6
T51 (net68 net115 net115 0) pfet L=5.59E-6 W=4.02E-6
R52 (net84 net95) R=2.9E1
C53 (net85 net139) C=6.3E-11
T54 (net142 net23 net23 0) nfet L=5.58E-6 W=7.00E-6
C55 (net3 net130) C=6.4E-6
T56 (net10 0 0 0) pfet L=7.41E-6 W=4.22E-6
T57 (net122 net82 net82 0) pfet L=4.12E-6 W=9.26E-6
R58 (net116 net104) R=0.6E6
T59 (0 net142 net142 0) nfet L=9.64E-6 W=5.20E-6
C60 (net111 net104) C=7.5E-10
T61 (net66 net41 net41 0) nfet L=6.24E-6 W=6.40E-6
R62 (net142 0) R=4.3E0
T63 (net21 0 0 0) nfet L=3.70E-6 W=4.92E-6
R64 (net39 net22) R=5.3E0
T65 (vdd! net68 net68 0) pfet L=8.03E-6 W=7.57E-6
T66 (net122 0 0 0) nfet L=8.39E-6 W=3.94E-6
T67 (net23 net31 net31 0) pfet L=8.45E-6 W=3.17E-6
T68 (0 net154 net154 0) pfet L=0.41E-6 W=4.56E-6
T69 (net115 net14 net14 0) nfet L=2.86E-6 W=5.10E-6
C70 (net138 net30) C=2.8E-7
R71 (net49 net32) R=4.3E6
C72 (0 net112) C=7.9E-7
T73 (net56 vdd! vdd! 0) nfet L=6.98E-6 W=9.62E-6
T74 (net107 net104 net104 0) nfet L=3.88E-6 W=3.92E-6
T75 (net80 net117 net117 0) nfet L=1.35E-6 W=1.98E-6
R76 (net104 net81) R=1.0E6
T77 (net60 net77 net77 0) nfet L=0.44E-6 W=5.49E-6
R78 (net29 vdd!) R=1.7E4
C79 (0 net108) C=3.3E-5
R80 (net68 vdd!) R=8.1E5
T81 (net129 net34 net34 0) pfet L=1.08E-6 W=3.05E-6
T82 (vdd! net126 net126 0) nfet L=1.65E-6 W=0.74E-6
C83 (net154 net80) C=6.3E-8
C84 (net36 net154) C=4.1E-14
T85 (net137 net48 net48 0) pfet L=5.84E-6 W=1.91E-6
T86 (net33 net75 net75 0) nfet L=0.96E-6 W=4.91E-6
C87 (net71 net54) C=8.3E-14
C88 (net28 net132) C=9.9E-7
T89 (net59 net119 net119 0) nfet L=6.49E-6 W=4.66E-6
T90 (net26 net136 net136 0) pfet L=0.25E-6 W=8.23E-6
C91 (net113 net31) C=2.3E-8
T92 (0 net40 net40 0) nfet L=3.94E-6 W=7.62E-6
C93 (net78 net57) C=3.7E-12
R94 (net47 net119) R=3.3E6
C95 (net9 net5) C=3.8E-10
C96 (net83 net17) C=3.2E-5
T97 (net54 net145 net145 0) pfet L=3.44E-6 W=3.73E-6
C98 (net131 net34) C=8.0E-6
T99 (net35 net139 net139 0) pfet L=9.77E-6 W=7.81E-6
T100 (net32 net112 net112 0) nfet L=6.81E-6 W=7.99E-6
T101 (net24 net111 net111 0) nfet L=3.88E-6 W=0.51E-6
R102 (net96 net152) R=0.9E0
T103 (net22 net103 net103 0) pfet L=4.25E-6 W=5.96E-6
C104 (vdd! net138) C=6.1E-13
R105 (net26 net120) R=4.3E5
R106 (net40 net135) R=9.3E3
C107 (net96 net52) C=2.6E-5
T108 (net153 net4 net4 0) nfet L=8.36E-6 W=4.97E-6
C109 (net111 net92) C=2.7E-10
C110 (0 net46) C=4.1E-10
T111 (net99 net6 net6 0) pfet L=2.18E-6 W=5.35E-6
T112 (net140 net67 net67 0) pfet L=5.00E-6 W=0.50E-6
C113 (net145 net95) C=9.0E-8
C114 (net70 net122) C=4.5E-10
T115 (vdd! net92 net92 0) nfet L=5.03E-6 W=3.13E-6
R116 (net14 net32) R=8.2E2
T117 (net88 net80 net80 0) nfet L=6.21E-6 W=5.35E-6
T118 (net16 net28 net28 0) nfet L=0.88E-6 W=3.31E-6
C119 (net124 net61) C=7.5E-7
R120 (vdd! net84) R=8.3E3
T121 (net60 net149 net149 0) nfet L=4.94E-6 W=4.38E-6
R122 (net41 net115) R=7.7E3
C123 (net81 vdd!) C=2.1E-12
T124 (net52 net150 net150 0) pfet L=9.25E-6 W=1.86E-6
C125 (net113 net19) C=3.1E-12
R126 (net82 vdd!) R=4.0E2
C127 (net17 net30) C=1.9E-7
T128 (net125 net50 net50 0) nfet L=3.29E-6 W=3.33E-6
R129 (net8 net129) R=8.5E1
T130 (net17 net40 net40 0) pfet L=7.61E-6 W=7.12E-6
C131 (net42 vdd!) C=2.2E-13
R132 (net82 net137) R=9.6E5
R133 (net115 net62) R=7.9E2
C134 (net78 net98) C=9.0E-7
T135 (net37 net39 net39 0) pfet L=9.32E-6 W=1.14E-6
T136 (net87 net70 net70 0) nfet L=9.38E-6 W=8.62E-6
C137 (net7 vdd!) C=5.1E-7
T138 (net17 net80 net80 0) pfet L=2.07E-6 W=3.56E-6
T139 (net149 net127 net127 0) nfet L=9.96E-6 W=1.68E-6
C140 (net134 net67) C=2.9E-11
T141 (net85 net128 net128 0) nfet L=2.09E-6 W=0.66E-6
C142 (net67 net6) C=1.1E-14
T143 (net146 net99 net99 0) pfet L=8.28E-6 W=9.02E-6
T144 (net55 net113 net113 0) nfet L=5.61E-6 W=5.90E-6
R145 (vdd! net44) R=5.1E3
C146 (net104 net95) C=9.7E-6
R147 (0 net120) R=8.0E6
R148 (vdd! net110) R=6.4E1
R149 (net78 net11) R=5.3E0
T150 (net148 net72 net72 0) nfet L=3.93E-6 W=3.23E-6
T151 (net25 vdd! vdd! 0) pfet L=9.87E-6 W=2.55E-6
R152 (net55 vdd!) R=2.8E4
T153 (net113 0 0 0) nfet L=7.61E-6 W=0.58E-6
T154 (net23 net45 net45 0) nfet L=9.58E-6 W=9.64E-6
R155 (net89 vdd!) R=5.0E1
C156 (net94 net105) C=2.5E-7
R157 (net132 net21) R=6.2E0
C158 (net3 net97) C=2.5E-11
T159 (net45 net30 net30 0) pfet L=4.32E-6 W=9.92E-6
T160 (net133 net133 net133 0) pfet L=4.59E-6 W=4.73E-6
T161 (net87 net146 net146 0) nfet L=2.81E-6 W=0.15E-6
T162 (net86 net42 net42 0) pfet L=2.06E-6 W=9.22E-6
T163 (net12 net112 net112 0) pfet L=6.52E-6 W=7.41E-6
R164 (net37 0) R=7.5E2
T165 (net76 net9 net9 0) pfet L=7.12E-6 W=7.07E-6
R166 (net52 net117) R=7.6E6
C167 (net77 net101) C=5.7E-13
R168 (net80 net145) R=8.3E6
T169 (net11 net113 net113 0) pfet L=6.82E-6 W=8.71E-6
T170 (net136 net50 net50 0) pfet L=1.68E-6 W=2.28E-6
R171 (net32 net108) R=6.7E1
C172 (net112 net129) C=3.3E-7
R173 (net70 net43) R=5.3E1
C174 (net79 0) C=2.8E-8
T175 (net8 0 0 0) pfet L=5.25E-6 W=9.28E-6
T176 (net142 net17 net17 0) nfet L=3.78E-6 W=6.88E-6
T177 (net115 net27 net27 0) nfet L=2.17E-6 W=7.50E-6
T178 (net55 net56 net56 0) pfet L=1.47E-6 W=8.65E-6
C179 (net43 net81) C=4.5E-11
R180 (net37 net118) R=7.4E6
C181 (0 net39) C=0.9E-5
T182 (net64 net63 net63 0) pfet L=8.24E-6 W=6.04E-6
T183 (net75 net1 net1 0) pfet L=1.63E-6 W=7.15E-6
T184 (net122 net5 net5 0) nfet L=9.58E-6 W=3.26E-6
R185 (net68 vdd!) R=7.1E6
T186 (net33 net129 net129 0) nfet L=9.65E-6 W=8.63E-6
T187 (net81 net116 net116 0) nfet L=1.35E-6 W=5.38E-6
T188 (net20 net117 net117 0) pfet L=5.05E-6 W=4.72E-6
C189 (net121 net93) C=8.0E-9
R190 (net114 net42) R=0.5E0
C191 (net129 net144) C=2.4E-7
T192 (0 net55 net55 0) pfet L=9.53E-6 W=3.96E-6
T193 (net93 net149 net149 0) nfet L=4.63E-6 W=1.89E-6
T194 (net142 net84 net84 0) nfet L=9.76E-6 W=5.11E-6

