C1 (net2 net1) C=8.9E-13
C2 (net1 net2) C=8.5E-12
T3 (net1 net3 net3 0) nfet L=0.98E-6 W=3.87E-6
R4 (net3 vdd!) R=2.6E2
R5 (net2 net1) R=3.0E4
T6 (net1 0 0 0) pfet L=7.16E-6 W=5.89E-6
T7 (0 net3 net3 0) nfet L=2.38E-6 W=0.39E-6
C8 (net2 net1) C=9.3E-11
T9 (net2 net1 net1 0) pfet L=6.07E-6 W=7.02E-6
T10 (net1 net3 net3 0) nfet L=9.44E-6 W=9.98E-6
T11 (net1 0 0 0) pfet L=2.43E-6 W=5.47E-6
T12 (net3 net1 net1 0) pfet L=7.04E-6 W=6.85E-6
T13 (net1 net1 net1 0) pfet L=1.56E-6 W=6.49E-6
T14 (net1 net2 net2 0) nfet L=7.85E-6 W=7.57E-6
T15 (vdd! net3 net3 0) pfet L=8.41E-6 W=9.51E-6
T16 (net2 vdd! vdd! 0) nfet L=0.55E-6 W=7.28E-6
C17 (0 net1) C=3.9E-10
T18 (net2 net1 net1 0) pfet L=4.68E-6 W=5.21E-6
T19 (net3 net3 net3 0) nfet L=9.72E-6 W=4.51E-6
R20 (net1 net2) R=8.0E4
R21 (net2 net1) R=8.0E1
T22 (net2 net1 net1 0) nfet L=2.49E-6 W=1.09E-6
T23 (net2 net1 net1 0) pfet L=0.28E-6 W=9.92E-6
T24 (net2 net1 net1 0) nfet L=7.64E-6 W=6.02E-6
T25 (vdd! net3 net3 0) pfet L=6.05E-6 W=9.39E-6
C26 (net2 net1) C=8.7E-14
T27 (net1 net3 net3 0) pfet L=3.37E-6 W=5.22E-6
T28 (net3 net1 net1 0) pfet L=4.02E-6 W=1.13E-6
C29 (net1 net3) C=7.7E-10
R30 (net1 net3) R=8.3E6
R31 (net2 0) R=1.5E2
C32 (net3 vdd!) C=5.2E-5
T33 (net3 net1 net1 0) nfet L=2.13E-6 W=6.46E-6
T34 (net3 net3 net3 0) pfet L=8.86E-6 W=6.10E-6
T35 (vdd! net3 net3 0) pfet L=7.77E-6 W=9.35E-6
T36 (net2 net3 net3 0) pfet L=2.02E-6 W=8.76E-6
T37 (net3 vdd! vdd! 0) pfet L=9.47E-6 W=7.81E-6
C38 (vdd! net3) C=1.0E-9
R39 (0 net1) R=8.8E2
R40 (net3 net1) R=0.6E3
C41 (net3 net1) C=1.0E-13
R42 (vdd! 0) R=4.4E5
R43 (net3 net2) R=6.9E4
R44 (net2 net1) R=3.4E5
C45 (net2 net1) C=8.0E-7
R46 (net2 net1) R=2.4E0
T47 (net2 net2 net2 0) nfet L=5.85E-6 W=1.86E-6
T48 (net1 net2 net2 0) pfet L=8.53E-6 W=9.35E-6
C49 (net1 net2) C=4.8E-12
C50 (net2 net3) C=8.7E-9
T51 (net1 net3 net3 0) pfet L=2.18E-6 W=4.34E-6
T52 (vdd! net3 net3 0) pfet L=5.28E-6 W=9.96E-6
R53 (vdd! net2) R=3.3E0
T54 (net1 net1 net1 0) pfet L=3.46E-6 W=3.78E-6
C55 (net2 net3) C=4.4E-8
R56 (net2 net1) R=1.2E0
C57 (net1 net3) C=3.8E-14
R58 (net3 net2) R=0.5E3
T59 (net3 net2 net2 0) nfet L=8.75E-6 W=7.22E-6
C60 (net2 net1) C=2.8E-13
R61 (net2 net1) R=1.3E0
R62 (net2 net1) R=3.2E5
T63 (net3 net3 net3 0) nfet L=4.59E-6 W=6.91E-6
R64 (net2 net3) R=3.8E4
T65 (net2 vdd! vdd! 0) pfet L=1.56E-6 W=9.44E-6
T66 (0 net3 net3 0) nfet L=5.21E-6 W=2.97E-6
C67 (net1 vdd!) C=5.9E-13
C68 (net3 net2) C=1.0E-8
T69 (net1 net2 net2 0) nfet L=3.26E-6 W=9.29E-6
T70 (net3 net2 net2 0) pfet L=7.64E-6 W=2.50E-6
R71 (0 net1) R=0.6E3
T72 (net2 0 0 0) nfet L=7.15E-6 W=7.67E-6
C73 (net3 net1) C=8.1E-9
T74 (net1 net1 net1 0) nfet L=4.73E-6 W=9.94E-6
T75 (net1 net2 net2 0) pfet L=1.87E-6 W=7.60E-6
T76 (0 net3 net3 0) pfet L=4.70E-6 W=4.61E-6
C77 (net3 net2) C=0.6E-14
T78 (0 net3 net3 0) nfet L=8.78E-6 W=3.40E-6
T79 (net1 net3 net3 0) pfet L=3.90E-6 W=5.96E-6
T80 (net2 net1 net1 0) pfet L=7.42E-6 W=2.71E-6
T81 (net1 net3 net3 0) nfet L=9.21E-6 W=7.54E-6
C82 (net2 net1) C=3.2E-8
R83 (0 net2) R=4.6E6
R84 (net2 net1) R=6.8E3
T85 (net2 net2 net2 0) nfet L=3.33E-6 W=3.68E-6
C86 (net2 vdd!) C=4.3E-13
R87 (net2 net1) R=9.5E2

