T1 (net35 net2 net2 0) pfet L=6.97E-6 W=2.64E-6
C2 (net4 net28) C=2.4E-5
T3 (net36 net7 net7 0) pfet L=9.45E-6 W=1.24E-6
R4 (net5 net9) R=7.1E3
C5 (net20 net2) C=9.9E-5
T6 (net25 net5 net5 0) nfet L=8.45E-6 W=8.53E-6
T7 (net12 0 0 0) nfet L=5.14E-6 W=3.57E-6
C8 (net43 0) C=8.8E-8
C9 (net4 net28) C=8.6E-13
T10 (net29 net22 net22 0) nfet L=4.31E-6 W=3.87E-6
R11 (net22 net35) R=5.8E1
T12 (0 net7 net7 0) nfet L=1.03E-6 W=9.74E-6
T13 (0 net15 net15 0) nfet L=7.13E-6 W=0.25E-6
R14 (net18 net25) R=7.1E2
T15 (net23 net19 net19 0) nfet L=1.92E-6 W=6.35E-6
T16 (net25 0 0 0) pfet L=2.16E-6 W=5.37E-6
R17 (net36 net30) R=0.5E0
T18 (net20 net5 net5 0) nfet L=7.34E-6 W=3.56E-6
T19 (net25 net39 net39 0) pfet L=9.44E-6 W=2.11E-6
C20 (net13 net43) C=8.0E-13
R21 (net2 net34) R=5.7E5
C22 (net18 net26) C=7.3E-11
C23 (net15 net23) C=3.0E-6
T24 (net31 net15 net15 0) pfet L=0.79E-6 W=0.43E-6
C25 (vdd! net3) C=7.8E-13
T26 (net36 net39 net39 0) nfet L=3.65E-6 W=9.01E-6
C27 (net26 net34) C=1.4E-6
T28 (net29 net33 net33 0) nfet L=1.40E-6 W=9.71E-6
R29 (net8 net20) R=2.9E5
R30 (net7 net32) R=2.6E3
T31 (net16 net2 net2 0) nfet L=0.13E-6 W=5.41E-6
C32 (net42 net10) C=5.6E-7
R33 (net40 net16) R=6.9E6
R34 (net41 net24) R=7.7E5
C35 (net36 net10) C=6.7E-12
C36 (net32 net22) C=8.8E-6
T37 (net22 net9 net9 0) nfet L=9.28E-6 W=6.72E-6
C38 (net22 net6) C=8.4E-11
T39 (net13 net2 net2 0) nfet L=8.99E-6 W=3.13E-6
C40 (net2 vdd!) C=2.2E-12
R41 (net26 net41) R=0.5E4
T42 (net22 net9 net9 0) pfet L=4.74E-6 W=7.75E-6
R43 (net28 net43) R=6.9E4
R44 (net4 net23) R=4.2E3
C45 (net11 net13) C=7.9E-14
T46 (net37 net35 net35 0) nfet L=4.39E-6 W=4.70E-6
T47 (net8 net36 net36 0) nfet L=0.21E-6 W=4.86E-6
T48 (net5 net26 net26 0) pfet L=1.55E-6 W=1.97E-6
R49 (net2 net3) R=5.4E3
C50 (net11 net15) C=3.4E-9
T51 (net34 net21 net21 0) nfet L=4.25E-6 W=5.51E-6
T52 (net8 net10 net10 0) nfet L=9.44E-6 W=1.95E-6
C53 (net35 net14) C=4.3E-11
T54 (net8 net31 net31 0) nfet L=4.58E-6 W=2.72E-6
R55 (net27 net6) R=7.0E2
T56 (net28 net39 net39 0) pfet L=3.73E-6 W=0.39E-6
T57 (net15 net13 net13 0) nfet L=9.96E-6 W=7.15E-6
T58 (net32 net10 net10 0) pfet L=0.13E-6 W=6.01E-6
T59 (net34 net43 net43 0) nfet L=3.17E-6 W=5.07E-6

