T1 (net9 net21 net21 0) nfet L=1.74E-6 W=8.17E-6
T2 (net14 net5 net5 0) nfet L=6.52E-6 W=1.39E-6
C3 (net3 net13) C=5.3E-11
T4 (net4 vdd! vdd! 0) nfet L=1.10E-6 W=6.36E-6
T5 (net29 net11 net11 0) pfet L=7.16E-6 W=0.75E-6
C6 (net12 net22) C=8.9E-9
R7 (net7 net17) R=7.8E6
T8 (net14 net20 net20 0) pfet L=5.03E-6 W=1.60E-6
C9 (net4 net28) C=5.9E-6
T10 (net17 vdd! vdd! 0) nfet L=7.39E-6 W=9.39E-6
T11 (net12 net5 net5 0) nfet L=0.39E-6 W=5.54E-6
C12 (net24 net29) C=8.0E-14
R13 (net13 net18) R=5.7E2
R14 (0 net2) R=0.6E3
C15 (net12 net25) C=0.8E-13
C16 (net27 net4) C=1.0E-7
T17 (net19 net6 net6 0) nfet L=1.02E-6 W=0.88E-6
T18 (net30 net19 net19 0) pfet L=7.53E-6 W=7.97E-6
C19 (net2 net24) C=3.4E-9
T20 (net14 net20 net20 0) pfet L=2.93E-6 W=8.01E-6
C21 (net9 net20) C=0.7E-14
R22 (net21 net9) R=8.5E1
R23 (net19 net3) R=9.7E4
C24 (net28 net3) C=3.9E-14
T25 (net22 net5 net5 0) pfet L=6.59E-6 W=7.94E-6
R26 (net1 net19) R=5.1E3
C27 (net4 net26) C=0.2E-14
C28 (net14 net21) C=7.3E-7
T29 (net18 net6 net6 0) nfet L=6.15E-6 W=6.45E-6
T30 (net25 net2 net2 0) nfet L=2.66E-6 W=6.68E-6
T31 (net12 net17 net17 0) nfet L=3.44E-6 W=2.52E-6
C32 (net25 net7) C=0.3E-11
C33 (net28 net5) C=2.1E-7
T34 (0 net27 net27 0) pfet L=0.66E-6 W=7.53E-6
C35 (net14 net29) C=6.9E-10
T36 (net21 net11 net11 0) pfet L=0.41E-6 W=4.31E-6
T37 (net7 0 0 0) nfet L=2.49E-6 W=4.90E-6
C38 (net3 net22) C=4.5E-6
T39 (net12 net21 net21 0) nfet L=7.32E-6 W=7.40E-6
T40 (vdd! net1 net1 0) nfet L=5.87E-6 W=9.45E-6
T41 (net15 net27 net27 0) nfet L=5.61E-6 W=4.01E-6
C42 (net14 net15) C=3.8E-14
C43 (net19 vdd!) C=2.3E-14
R44 (net17 net9) R=8.8E6
C45 (net20 net3) C=2.8E-6
T46 (net4 net19 net19 0) pfet L=5.51E-6 W=7.87E-6
T47 (net15 net30 net30 0) pfet L=9.89E-6 W=6.34E-6
C48 (net2 net4) C=9.1E-9
T49 (net21 net23 net23 0) pfet L=4.96E-6 W=7.70E-6
T50 (net1 net17 net17 0) nfet L=9.25E-6 W=3.69E-6
T51 (net14 net11 net11 0) nfet L=6.27E-6 W=7.95E-6
C52 (net8 net3) C=6.0E-5
R53 (net12 net8) R=4.4E2
T54 (net17 net7 net7 0) nfet L=9.90E-6 W=2.33E-6
T55 (net25 net15 net15 0) nfet L=7.66E-6 W=1.29E-6
T56 (net19 net19 net19 0) nfet L=0.57E-6 W=0.62E-6
C57 (net14 net20) C=3.3E-13
T58 (net9 net18 net18 0) pfet L=5.40E-6 W=9.64E-6
R59 (net2 net28) R=6.4E5
T60 (net17 net13 net13 0) nfet L=5.70E-6 W=4.81E-6
C61 (net24 net2) C=7.5E-8
R62 (net6 vdd!) R=6.5E4
T63 (net9 net6 net6 0) pfet L=3.46E-6 W=7.32E-6
T64 (net6 net24 net24 0) nfet L=8.00E-6 W=7.32E-6
T65 (0 net28 net28 0) nfet L=8.98E-6 W=2.89E-6
R66 (net24 net26) R=3.5E1
T67 (net15 net23 net23 0) pfet L=3.51E-6 W=6.29E-6
R68 (net10 net17) R=9.5E4
T69 (net13 net9 net9 0) nfet L=5.46E-6 W=8.53E-6
T70 (net28 net11 net11 0) pfet L=7.61E-6 W=1.63E-6
C71 (net3 net25) C=4.1E-10
T72 (net8 net18 net18 0) nfet L=3.36E-6 W=8.31E-6
T73 (net17 net10 net10 0) nfet L=0.24E-6 W=7.29E-6
T74 (net12 net15 net15 0) nfet L=2.75E-6 W=4.60E-6
T75 (net5 net19 net19 0) pfet L=6.22E-6 W=7.66E-6
R76 (net14 net28) R=1.1E2
T77 (net24 net23 net23 0) nfet L=8.77E-6 W=2.18E-6
T78 (net19 net27 net27 0) pfet L=5.17E-6 W=9.80E-6
C79 (net13 net29) C=0.6E-12
T80 (net13 net16 net16 0) nfet L=6.50E-6 W=9.99E-6
C81 (net26 net2) C=9.7E-11
T82 (0 net13 net13 0) nfet L=9.03E-6 W=6.67E-6
T83 (net22 net19 net19 0) pfet L=5.20E-6 W=6.30E-6
T84 (net12 net11 net11 0) pfet L=5.49E-6 W=5.89E-6
T85 (net15 net25 net25 0) nfet L=0.54E-6 W=5.84E-6
T86 (net6 net15 net15 0) pfet L=4.44E-6 W=4.67E-6
T87 (net3 net14 net14 0) nfet L=2.50E-6 W=4.40E-6
C88 (net8 net13) C=3.2E-5
C89 (net7 net2) C=8.3E-11
R90 (net3 net11) R=6.5E4
R91 (net7 net4) R=7.5E6
T92 (net13 net25 net25 0) nfet L=9.75E-6 W=5.34E-6
T93 (net27 net7 net7 0) pfet L=7.36E-6 W=1.14E-6
R94 (net30 net3) R=6.6E0
T95 (net26 net21 net21 0) nfet L=9.38E-6 W=8.13E-6
T96 (0 net18 net18 0) nfet L=2.50E-6 W=5.47E-6
T97 (net5 vdd! vdd! 0) pfet L=8.25E-6 W=8.07E-6
T98 (net15 net8 net8 0) nfet L=7.87E-6 W=7.82E-6
C99 (net6 net27) C=3.2E-5
T100 (net17 net11 net11 0) nfet L=7.70E-6 W=4.52E-6
T101 (net11 net20 net20 0) pfet L=4.73E-6 W=4.82E-6
T102 (net18 net23 net23 0) pfet L=0.58E-6 W=8.25E-6
T103 (net7 net22 net22 0) pfet L=6.45E-6 W=8.85E-6
C104 (net13 net8) C=1.8E-8
T105 (net24 net25 net25 0) nfet L=1.64E-6 W=1.55E-6
T106 (net19 net28 net28 0) pfet L=2.76E-6 W=0.46E-6
T107 (net3 net15 net15 0) nfet L=1.63E-6 W=1.20E-6
C108 (net13 net28) C=3.8E-7
T109 (net25 net18 net18 0) pfet L=5.76E-6 W=6.16E-6
T110 (vdd! net15 net15 0) nfet L=7.37E-6 W=8.48E-6
C111 (net19 net22) C=6.6E-5
T112 (net14 net25 net25 0) nfet L=2.23E-6 W=5.96E-6
T113 (vdd! net21 net21 0) pfet L=5.22E-6 W=2.54E-6
C114 (net16 net24) C=2.0E-13
R115 (net22 net15) R=5.8E5
C116 (net25 net16) C=5.6E-11
C117 (net17 0) C=2.9E-8
T118 (net22 net7 net7 0) pfet L=2.46E-6 W=1.06E-6
C119 (net23 net10) C=2.4E-9
T120 (net26 net27 net27 0) pfet L=3.92E-6 W=5.87E-6
R121 (net20 net19) R=7.4E2
T122 (net17 net3 net3 0) nfet L=1.69E-6 W=5.52E-6
T123 (net26 net5 net5 0) pfet L=7.11E-6 W=2.69E-6
C124 (net10 net1) C=8.1E-12
T125 (0 net28 net28 0) pfet L=0.30E-6 W=9.38E-6
T126 (net5 net4 net4 0) nfet L=1.85E-6 W=7.85E-6
R127 (vdd! net13) R=4.2E0
T128 (net9 net7 net7 0) nfet L=8.94E-6 W=1.14E-6
T129 (net19 net29 net29 0) nfet L=4.82E-6 W=0.17E-6
T130 (net23 net30 net30 0) pfet L=1.37E-6 W=1.15E-6
T131 (net27 net16 net16 0) pfet L=7.96E-6 W=6.94E-6
T132 (net14 0 0 0) nfet L=7.00E-6 W=2.09E-6
C133 (net18 net4) C=7.1E-11
T134 (net14 net6 net6 0) pfet L=5.10E-6 W=4.90E-6
C135 (net29 net4) C=9.4E-6
T136 (net6 net4 net4 0) nfet L=5.70E-6 W=4.89E-6
C137 (net23 net17) C=0.5E-13
T138 (net10 net10 net10 0) nfet L=6.33E-6 W=6.45E-6
T139 (0 vdd! vdd! 0) nfet L=2.33E-6 W=0.57E-6
T140 (net6 net7 net7 0) pfet L=9.33E-6 W=9.65E-6
C141 (net29 net2) C=6.6E-13
T142 (net29 vdd! vdd! 0) pfet L=4.61E-6 W=5.41E-6
C143 (net15 vdd!) C=8.8E-9
T144 (0 net12 net12 0) nfet L=2.97E-6 W=4.59E-6

